US06355683B1
1,2-Bis(m-bromophenyl)ethane was prepared by the method of Lindsay et al (JACS, 1961, 83, 943) as follows. Magnesium (0.05 g, 2.0 mmol) was added to a solution of 3-bromobenzylbromide (1.0 g, 4.0 mmol) in Et2O (10 mL) at rt. After 20 min at room temperature all the magnesium had dissolved and anhydrous ferric chloride (5 mg) was added. The reaction was heated to reflux for 1 hour, cooled, acidified to about pH 1 with 1 M aqueous H2SO4 and extracted with Et2O (3×50 mL). The combined organic extracts were washed with water (50 mL), dried (Na2SO4), filtered and concentrated in vacuo to give a yellow solid. Recrystallization from petroleum ether gave 1,2-bis(m-bromophenyl)ethane as a colorless solid. MS (APCI) m/z 338 (50%), 340 (100), 342 (50). 1H NMR (200 MHz, CDCl3): δ2.85, s, 2H; 7.02-7.25, m, 2H; 7.30-7.39, m, 2H.

reactant | Magnesium | 2.0 mmol, 0.05 g | [Mg] | Mg
reactant | 3-bromobenzylbromide | 4.0 mmol, 1.0 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | H2SO4 | 1 M | OS(=O)(=O)O | H2O4S
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 1,2-bis(m-bromophenyl)ethane | BrC=1C=C(C=CC1)CCC1=CC(=CC=C1)Br | C14H12Br2
